US05223526
N-[2-(1-cyclopentylethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide:
A mixture of N-[2-(1-cyclopentylideneethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide trifluoromethyl)-1H-pyrazole-4-carboxamide and N-[2-(1-cyclopentylethenyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide (2.5 g), each prepared using the methods described above, were shaken on a Parr Shaker with 5% Pd/C in ethanol (75 mL) under 60 lbs of H2 overnight. Contents were filtered and concentrated in vacuo leaving a white solid (2.44 g). The solid was recrystallized from EtOAc/hexanes to give the desired compound as a white solid (1.3 g).

reactant | 1H-pyrazole-4-carboxamide | N1N=CC(=C1)C(=O)N | C4H5N3O
reactant | N-[2-(1-cyclopentylethenyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide | 2.5 g | C1(CCCC1)C(=C)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C19H20F3N3O
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | N-[2-(1-cyclopentylethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide | 2.44 g | C1(CCCC1)C(C)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C19H22F3N3O
